US08217045B2
Step 17.1: 6-[2-(Cyclopropanecarbonyl-amino)-pyridin-4-yloxy]-isoquinoline-1-carboxylic acid
Cyclopropanecarboxylic acid (4-nitro-pyridin-2-yl)-amide (200 mg, 0.965 mmol), 6-hydroxy-isoquinoline-1-carboxylic acid (183 mg, 0.965 mmol), and potassium carbonate (267 mg, 1.93 mmol) are stirred in dimethylsulphoxide (10 mL) at 90° C. for 24 h. After cooling to 20° C., the dimethylsulphoxide is partially evaporated under reduced pressure, water is added, the solution is carefully acidified with trifluoroacetic acid and the resulting solution is purified using a MPLC reverse phase chromatography (Merck LiChroprep® RP-18, acetonitrile/water 0.1% trifluoroacetic acid) to afford the title compound as a solid. M-H, 348.1; HPLC tR: 3.29 min.

reactant | Cyclopropanecarboxylic acid (4-nitro-pyridin-2-yl)-amide | 0.965 mmol, 200 mg | [N+](=O)([O-])C1=CC(=NC=C1)NC(=O)C1CC1 | C9H9N3O3
reactant | 6-hydroxy-isoquinoline-1-carboxylic acid | 0.965 mmol, 183 mg | OC=1C=C2C=CN=C(C2=CC1)C(=O)O | C10H7NO3
reactant | potassium carbonate | 1.93 mmol, 267 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulphoxide | 10 mL | CS(=O)C | C2H6OS
product | 6-[2-(Cyclopropanecarbonyl-amino)-pyridin-4-yloxy]-isoquinoline-1-carboxylic acid | C1(CC1)C(=O)NC1=NC=CC(=C1)OC=1C=C2C=CN=C(C2=CC1)C(=O)O | C19H15N3O4
